US06133258
The reaction procedure of Example 102 was followed except that 336 mg g of 2-chloronicotinoyl chloride, 145 mg of ammonium thiocyanate, 300 mg of 2-(methylamino)naphthalene and 7 ml of acetone were used. The product was then recrystallized from a mixture of ethanol and chloroform to obtain 321 mg of 2-[N-methyl-N-(2-naphthyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinoyl chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 145 mg | [S-]C#N.[NH4+]
reactant | 2-(methylamino)naphthalene | 300 mg | CNC1=CC2=CC=CC=C2C=C1 | C11H11N
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 2-[N-methyl-N-(2-naphthyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 321 mg | CN(C1=CC2=CC=CC=C2C=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C18H13N3OS
